US08372864B2
At a temperature close to 20° C., 100 mg of 2-benzyl-N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 2 cm3 of ethyl ether. Since the product crystallizes, the ethyl ether is removed under reduced pressure (5 kPa). The residue is dissolved at high temperature in ethyl acetate then the solution obtained is cooled to a temperature close to 0° C. and 0.7 cm3 of a 2M solution of hydrochloric acid in ethyl ether is added. Stirring is continued for 15 min. The solution is then concentrated under reduced pressure (5 kPa). 3 cm3 of ethyl ether are added. The reaction mixture precipitates. The stirring is stopped in order to remove the supernatant, then ethyl ether is again added. This operation is carried out twice. The last suspension is then concentrated under reduced pressure (5 kPa). 94 mg of 2-benzyl-N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a pale yellow solid.

reactant | 2-benzyl-N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 100 mg | C(C1=CC=CC=C1)N1C(C=2C=CC=C(C2CC1)C(=O)N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F)=O | C37H34F5N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 2 cm3 | C(C)OCC | C4H10O
product | 2-benzyl-N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 94 mg | Cl.C(C1=CC=CC=C1)N1C(C=2C=CC=C(C2CC1)C(=O)N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F)=O | InChI=1S/C37H34F5N3O3.ClH/c38-27-16-24(17-28(39)20-27)18-32(33(46)21-43-36(13-14-36)25-8-4-9-26(19-25)37(40,41)42)44-34(47)30-10-5-11-31-29(30)12-15-45(35(31)48)22-23-6-2-1-3-7-23;/h1-11,16-17,19-20,32-33,43,46H,12-15,18,21-22H2,(H,44,47);1H/t32-,33+;/m0./s1
